US06719520B2
3-[(4-Nitrophenyl)thio]Benzoic Acid
A suspension of potassium carbonate (18 g) in acetone (140 mL) at ambient temperature was treated with 3-mercaptobenzoic acid (10 g, 64.4 mmol, 1 eq) followed by 4-nitrofluorobenzene (18 g, 127.7 mmol, 2 eq). The resultant mixture was stirred for 18 h and then poured onto saturated sodium bicarbonate and washed with ethyl acetate. The basic aqueous layer was acidified with SN HCl and extracted into ethyl acetate (3×100 mL). The combined organics were dried with anhydrous sodium sulphate and concentrated in vacuo to give the product as a solid.

reactant | potassium carbonate | 18 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-mercaptobenzoic acid | 64.4 mmol, 10 g, 1 eq | SC=1C=C(C(=O)O)C=CC1 | C7H6O2S
reactant | 4-nitrofluorobenzene | 127.7 mmol, 18 g, 2 eq | [N+](=O)([O-])C1=CC=C(C=C1)F | C6H4FNO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetone | 140 mL | CC(=O)C | C3H6O
product | 3-[(4-Nitrophenyl)thio]Benzoic Acid | [N+](=O)([O-])C1=CC=C(C=C1)SC=1C=C(C(=O)O)C=CC1 | C13H9NO4S
